US09024041B2
Intermediate H1: 4-((4-aminonaphthalen-1-yl)methyl)pyridin-2-amine
To a solution of (4-(tert-butoxycarbonyl)aminonaphthalen-1-yl)(2-(tert-butoxycarbonyl)amino pyridin-4-yl)methane (270 mg, 0.60 mmol) in dry DCM (6.0 mL) under N2 at 0° C. was added TFA (2.0 mL, 25 mmol). The reaction was maintained at 0° C. for a further 20 min and was then warmed to RT for 4 hr. The mixture was evaporated in vacuo and the residue was subjected to SCX capture and release to afford the title compound, Intermediate H1, (150 mg, 100%); Rt 0.79 min (Method 2); m/z 250 (M+H)+ (ES+).

reactant | (4-(tert-butoxycarbonyl)aminonaphthalen-1-yl)(2-(tert-butoxycarbonyl)amino pyridin-4-yl)methane | 0.60 mmol, 270 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C2=CC=CC=C12)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C | C26H31N3O4
reactant | TFA | 25 mmol, 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 4-((4-aminonaphthalen-1-yl)methyl)pyridin-2-amine | NC1=CC=C(C2=CC=CC=C12)CC1=CC(=NC=C1)N | C16H15N3
